US07365069B2
Synthesis of ethyl 1-(4-methylphenyl)-4-(methylthio)-2-[4-(methylthio)phenyl]-6-oxo-1,6-dihydropyrimidine-5-carboxylate
A mixture of diethyl [bis(methylthio)methylene]malonate (2.64 g, 10 mmol) and N-(4-methylphenyl)-4-(methylthio)benzenecarboximidamide (2.6 g, 10 mmol) (prepared according to the procedure described in preparation 6) was heated at 110-120° C. for 2 hours. The gummy mass thus obtained was purified by column chromatography to give the title compound (0.86 g, yield 20.2%, mp 153-155° C., purity 99.81% by HPLC). 1H-NMR (CDCl3):δ 1.36-1.39 (t, 3H), 2.33 (s, 3H), 2.44 (s, 3H), 2.55 (s, 3H), 4.37-4.42 (q, 2H), 7.0-7.05 (m, 4H), 7.13-7.15 (d, 2H), 7.25-7.27 (d, 2H). IR (KBr) cm−1: 2981, 2924, 1693 (—C═O). MS m/z:427.1(M+)

reactant | diethyl [bis(methylthio)methylene]malonate | 10 mmol, 2.64 g | CSC(SC)=C(C(=O)OCC)C(=O)OCC | C10H16O4S2
reactant | N-(4-methylphenyl)-4-(methylthio)benzenecarboximidamide | 10 mmol, 2.6 g | CC1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)SC | C15H16N2S
product | ethyl 1-(4-methylphenyl)-4-(methylthio)-2-[4-(methylthio)phenyl]-6-oxo-1,6-dihydropyrimidine-5-carboxylate | 0.86 g, yield 20.2% | CC1=CC=C(C=C1)N1C(=NC(=C(C1=O)C(=O)OCC)SC)C1=CC=C(C=C1)SC | C22H22N2O3S2
